US09421188B2
Preparation method: 400 g of blank sucrose pellet cores (0.71-0.85 mm) was placed in a centrifugation pelletizer; 74.7 g of phentermine hydrochloride (corresponding to 60 g of phentermine) that had passed through 80-mesh sieve was weighed and added in a feeder of the pelletizer, the rotation speed of main engine was set at 250-330 rpm, air blast flow was 400 L/min, air injection flow was 15-20 L/min, air injection pressure was 0.5-0.6 MPa, 45 ml of 3% (w/v) aqueous solution of hydropropyl methyl cellulose (HPMC) was used as binding agent, solution spray rate was 3-6 ml/min, and rotation speed of powder feeder was 10-20 r/min, so that drug powder was uniformly laminated on mother cores, the material was taken out after the end of powder feeding, and dried at 60° C. for 2 h, to obtain rapid-release pellet of phentermine.

reactant | sucrose | 400 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | phentermine hydrochloride | 74.7 g | CC(C)(CC=1C=CC=CC1)N.Cl
product | phentermine | CC(C)(CC=1C=CC=CC1)N | C10H15N
